US07423012B2
(4-Hydroxymethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (1.91 g, 8.51 mmol) was dissolved in dry DMSO (10 mL) and the reaction flask immersed in a waterbath at 15° C. Triethylamine (1.72 g, 17.0 mmol) was added followed by sulfur trioxide pyridine complex (2.41 g, 15.1 mmol). The reaction mixture was stirred for 2 h and poured onto crushed ice and the product extracted with CHCl3. The organic extract was washed with water, dried concentrated under reduced pressure. The crude product was purified by flash chromatography (hexane/EtOAc, 80:20) to give (4-Formyl-pyridin-2-yl)-carbamic acid tert-butyl ester (1.57 g, 83%).

reactant | (4-Hydroxymethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 8.51 mmol, 1.91 g | C(C)(C)(C)OC(NC1=NC=CC(=C1)CO)=O | C11H16N2O3
reactant | Triethylamine | 17.0 mmol, 1.72 g | C(C)N(CC)CC | C6H15N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | (4-Formyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 1.57 g, 83% | C(C)(C)(C)OC(NC1=NC=CC(=C1)C=O)=O | C11H14N2O3
